US06166219
Nine milliliters of acetyl chloride were added to a mixture of 18.4 g of ethyl 3-amino-4-nitrobenzoate and 200 ml of N,N-dimethylaniline while being cooled with ice. The mixture was stirred at room temperature for 2 hours and then at 50° C. for 2 hours. The reaction solution was poured into cold 1-N hydrochloric acid, and the mixture was extracted twice with ethyl acetate. The organic layer was washed with 1-N hydrochloric acid and then with water, and was dried. The solvent was then distilled off under reduced pressure. The residue was purified through silica-gel column chromatography (eluent: a mixture of ethyl acetate and hexane at a ratio of from 1:10 to 1:4) to give 19.6 g of ethyl 3-acetylamino-4-nitrobenzoate.

reactant | acetyl chloride | Nine milliliters | C(C)(=O)Cl | C2H3ClO
reactant | ethyl 3-amino-4-nitrobenzoate | 18.4 g | NC=1C=C(C(=O)OCC)C=CC1[N+](=O)[O-] | C9H10N2O4
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylaniline | 200 ml | CN(C1=CC=CC=C1)C | C8H11N
product | ethyl 3-acetylamino-4-nitrobenzoate | 19.6 g | C(C)(=O)NC=1C=C(C(=O)OCC)C=CC1[N+](=O)[O-] | C11H12N2O5
